Capstone
*SPICE Netlist generated by Advanced Sim server on 6/29/2024 4:03:25 AM
.options MixedSimGenerated

*Schematic Netlist:
CC1 0 NetC1_2 10uF
CC2 0 NetC2_2 22uF
LL? NetL?_1 NetC2_2 2.2uH
RR? NetR?_1 NetR?_2 100k TC1=0 TC2=0
VV? NetC1_2 0 5 AC 1 0

.PLOT DC {v(C2)} =PLOT(1) =AXIS(1) =RGB(255, 0, 0)
.PROBE {V(NetL?_1)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC1_2)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.DC V? 6 7.2 500m

.END